US07612108B2
After 2,2,-dimethyl-1-propanol and sodium hydride were stirred at 0° C. in DMF, 5-bromo-2-fluorobenzonitrile was added thereto and the whole was reacted at room temperature to obtain 5-bromo-2-(2,2-dimethylpropoxy)benzonitrile. NMRC: 3.67 (2H, s), 6.83 (1H, d), 7.64 (1H, d).

reactant | 2,2,-dimethyl-1-propanol | CC(CO)(C)C | C5H12O
reactant | sodium hydride | [H-].[Na+]
reactant | 5-bromo-2-fluorobenzonitrile | BrC=1C=CC(=C(C#N)C1)F | C7H3BrFN
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-bromo-2-(2,2-dimethylpropoxy)benzonitrile | BrC=1C=CC(=C(C#N)C1)OCC(C)(C)C | C12H14BrNO
